US05708130
To a stirred mixture of 2,7-dichlorofluorene (43 g, 0,183 mole) and 120 mL of dimethylsulfoxide (DMSO) under nitrogen was added benzyltriethylammonium chloride (2.3 g, 0.01 mole) and 60 mL of a 50 weight percent aqueous solution of sodium hydroxide. 2-Ethylhexyl bromide (85 g, 0.44 mole) was added and the mixture was agitated well for 2 hours. The reaction was exothermic, the temperature reaching 80° C. within 5 minutes after the addition of 2-ethylhexyl bromide and then falling off to 30° C. over the 2-hour reaction time. Analysis of an aliquot by high pressure liquid chromatography (HPLC) showed the complete disappearance of 2,7-dichlorofluorene and the formation of new product. Water (200 mL), and diethyl ether (250 mL) were added to the reaction mixture, stirred for 15 minutes and the layers were separated. The organic layer was washed with a saturated aqueous NaCl solution, water, dried (MgSO4) and evaporated to remove ether. Fractional vacuum distillation of the residue provided 2,7-dichloro-9,9-di(2-ethylhexyl)fluorene as clear liquid, boiling point 200° C./1 mm Hg, (79 g, 94 percent yield); HPLC analysis showed that the product was 99 percent pure; Proton Magnetic Spectrum (PMR) analysis was consistent with the title structure.

reactant | 2,7-dichlorofluorene | 0,183 mole, 43 g | ClC1=CC=2CC3=CC(=CC=C3C2C=C1)Cl | C13H8Cl2
reactant | dimethylsulfoxide | 120 mL | CS(=O)C | C2H6OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-Ethylhexyl bromide | 0.44 mole, 85 g | C(C)C(CBr)CCCC | C8H17Br
catalyst | benzyltriethylammonium chloride | 0.01 mole, 2.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | Water | 200 mL | O | H2O
product | 2,7-dichloro-9,9-di(2-ethylhexyl)fluorene | 94 percent yield | ClC1=CC=2C(C3=CC(=CC=C3C2C=C1)Cl)(CC(CCCC)CC)CC(CCCC)CC | C29H40Cl2
